US07951824B2
5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid (4-fluoro-phenyl)-amide
The title compound, was prepared from 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 4-Fluoroaniline instead of 3-chloroaniline to yield the final compound as a gray solid, MS (ISP): m/e=324.9, 326.2 (M+H)+.

reactant | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C14H13FN2O2
reactant | 4-Fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid (4-fluoro-phenyl)-amide | FC1=CC=C(C=C1)NC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C18H13F2N3O
